US05286878
Titanocene dichloride (0.28 g, 1.1 mmol) was dissolved in (15 mL) of tetrahydrofuran in a nitrogen atmosphere, and the reaction mixture was cooled to -78° C., and 2.4 mL of a 1.6M solution of n-butyl lithium in hexane was added. The reaction mixture was stirred for 15 min and then 4.5 mL diphenylsilane (24 mmol) was added. After warming the reaction mixture to room temperature, 1.8 g of N-benzylpyrrolidinone (11 mmol) was added to the black solution, which began bubbling and became warm (i.e., about 30° C.) after 1-2 min. The reaction mixture was stirred overnight at room temperature and then heated to 55° C. for 1 hour. The solution was then poured into 50 mL of ethyl ether and extracted with 1 M HCl (3×50 mL). The aqueous layer was washed with ether (2×25 mL) and then neutralized with a 5 M NaOH solution so that the aqueous layer was basic to pH paper. The product was extracted into ether (3×50 mL) and the emulsion that formed was also extracted with ether (50 mL). The combined ether extracts were dried over MgSO4, filtered, and concentrated in vacuo. N-benzylpyrrolidine was isolated as a yellow oil (1.58 g of 95% pure material, 84% yield).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diphenylsilane | 24 mmol, 4.5 mL | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
reactant | N-benzylpyrrolidinone | 11 mmol, 1.8 g | C(C1=CC=CC=C1)N1C(CCC1)=O | C11H13NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | Titanocene dichloride | 1.1 mmol, 0.28 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
product | N-benzylpyrrolidine | 84% yield | C(C1=CC=CC=C1)N1CCCC1 | C11H15N
